US06008245
A solution of 9.5 g (28.5 mmol) of 6-benzyloxy-3-bromo-2,2-dimethyl-chroman-4-ol in 100 ml of THF was stirred overnight with 4.6 g (82 mmol) of potassium hydroxide powder. The batch was subsequently filtered through Celite and the filtrate was concentrated using a rotary evaporator, giving 8.3 g of 6-benzyloxy-2,2-dimethyl-3,4-epoxychroman, m.p. 70-72° C.

reactant | 6-benzyloxy-3-bromo-2,2-dimethyl-chroman-4-ol | 28.5 mmol, 9.5 g | C(C1=CC=CC=C1)OC=1C=C2C(C(C(OC2=CC1)(C)C)Br)O | C18H19BrO3
reactant | potassium hydroxide | 82 mmol, 4.6 g | [OH-].[K+]
solvent | THF | 100 ml | C1CCOC1 | C4H8O
product | 6-benzyloxy-2,2-dimethyl-3,4-epoxychroman | 8.3 g | C(C1=CC=CC=C1)OC=1C=C2C3C(C(OC2=CC1)(C)C)O3 | C18H18O3
